US09402841B2
Preparation x2: (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate
A mixture of (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate (434 mg, 2.333 mmol) in NMP (2.5 mL) at 0° C. was treated with NaH (93 mg, 2.333 mmol) and stirred for 1 hour. Next, 1-chloroisoquinoline-3-carbonitrile (400 mg, 2.121 mmol) was added and the reaction mixture was stirred at RT for 15 minutes and then heated at 140° C. for 15 minutes in a microwave reactor. The crude reaction mixture, which contained the title compound, was used without further purification. ESI-MS m/z [M+H]+ 339.4.

reactant | (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate | 2.333 mmol, 434 mg | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | NaH | 2.333 mmol, 93 mg | [H-].[Na+]
reactant | 1-chloroisoquinoline-3-carbonitrile | 2.121 mmol, 400 mg | ClC1=NC(=CC2=CC=CC=C12)C#N | C10H5ClN2
solvent | NMP | 2.5 mL | CN1CCCC1=O | C5H9NO
product | (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | C(#N)C=1N=C(C2=CC=CC=C2C1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C19H22N4O2
